US06921763B2
A solution of rac-3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine monohydrochloride (0.500 g, 1.36 mmol), sodium bicarbonate (0.401 g, 4.77 mmol), and di-tert-butyl dicarbonate (0.327 g, 1.50 mmol) in 1,4-dioxane (8 mL) and water (8 mL) was stirred at room temperature for 3 h. The resulting off-white suspension was filtered, and the filter cake was washed with water (10 mL) and dried to afford rac-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyrrolidinecarboxylate as an off-white solid (0.412 g, 70%). RP-HPLC Rt 11.540 min, 100% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 431 (MH+).

reactant | rac-3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine monohydrochloride | 1.36 mmol, 0.500 g | Cl.IC1=NN(C2=NC=NC(=C21)N)C2CNCC2
reactant | sodium bicarbonate | 4.77 mmol, 0.401 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 1.50 mmol, 0.327 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 8 mL | O | H2O
product | rac-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyrrolidinecarboxylate | 0.412 g, 70% | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CC2)C(=O)OC(C)(C)C | C14H19IN6O2
